US08497360B2
Under a nitrogen atmosphere, (1S)-camphanic acid chloride (1.68 g, 7.77 mmol) was added to a solution of (RS)-1-(4-iodo-2-nitrophenyl)-2,2-dimethyl-1-propanol (2.17 g, 6.47 mmol) and DMAP (1.18 g, 9.7 mmol) in anhydrous dichloromethane (50 mL). The mixture was stirred overnight at room temperature and then washed with saturated NaHCO3 solution (60 mL) and water (60 mL). The organic phase was dried over Na2SO4, concentrated in vacuo and purified by silica gel column chromatography to yield (RS)-1-(4-iodo-2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate (2.94 g, 88%, 1:1 mixture of diastereomers) as a white solid. 1H NMR (400 MHz, CDCl3) for diastereomers: δ 8.23 (m, 1 H, Ph-H), 7.90 (m, 1 H, Ph-H), 7.31 (m, 1 H, Ph-H), 6.56 and 6.51 (2 s, 1 H, Ph-CH), 2.38 (m, 1H), 2.07-1.9 (m, 2H), 1.69 (m, 1H), 1.13, 1.11, 1.07, 1.04, 1.02, 0.87 (6 s, 9 H, CH3×3), 0.96 (s, 9 H, (CH3)3C).

reactant | (1S)-camphanic acid chloride | 7.77 mmol, 1.68 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
reactant | (RS)-1-(4-iodo-2-nitrophenyl)-2,2-dimethyl-1-propanol | 6.47 mmol, 2.17 g | IC1=CC(=C(C=C1)C(C(C)(C)C)O)[N+](=O)[O-] | C11H14INO3
catalyst | DMAP | 9.7 mmol, 1.18 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (RS)-1-(4-iodo-2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate | 2.94 g, 88% | [C@]12(C(CC(CC1)C2(C)C)C(=O)OC(C(C)(C)C)C2=C(C=C(C=C2)I)[N+](=O)[O-])C | C22H30INO4
